US07846950B2
(2-Fluoro-4-hydroxy-phenyl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure A from 2-Fluoro-4-hydroxy-benzoic acid and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 307.3.

reactant | 2-Fluoro-4-hydroxy-benzoic acid | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | (2-Fluoro-4-hydroxy-phenyl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C17H23FN2O2
